US07320993B1
N-[4-(trans-2-phenyl-cyclopropyl-carbonylamino)-butyl]-3-pyridin-3-yl-acrylamide (Substance 250)
2.4 g (16.1 mmol) 3-(3-pyridyl)-acrylic acid and 5.3 ml (38.0 mmol) TEA are suspended in 80 ml abs. dichloromethane and cooled to ca. 0° C. under moisture exclusion. 2.9 g (18.9 mmol) 88% HOBT and 3.6 g (18.8 mmol) EDC are added and the mixture is stirred for 30 min under ice cooling. 5.3 g (17.0 mmol) 4-(trans-2-phenyl-cyclopropyl-carbonylamino)-butylamine are dissolved in 30 ml abs. dichloromethane and added drop-wise under ice cooling. The mixture is stirred overnight at RT without further cooling. The formed precipitate is filtered off and crystallized from 120 ml isopropanol. Colorless crystals with MP. 194-196° C. Yield 4.2 g (71%).

reactant | 3-(3-pyridyl)-acrylic acid | 16.1 mmol, 2.4 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | HOBT | 18.9 mmol, 2.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 18.8 mmol, 3.6 g
reactant | 4-(trans-2-phenyl-cyclopropyl-carbonylamino)-butylamine | 17.0 mmol, 5.3 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)NCCCCN | C14H20N2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(trans-2-phenyl-cyclopropyl-carbonylamino)-butyl]-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)NCCCCNC(C=CC=1C=NC=CC1)=O | C22H25N3O2
